US06153757
Phenol (2.82 kg, 30.0 mol) was heated to 50° C. and 4-chloropyridine hydrochloride (1.5 kg, 10.0 mol) was added. The resulting solution was heated at 150° C. for 15 hours. The dark amber solution was cooled to 25° C. then poured into 3 M aqueous sodium hydroxide (16 L). The aqueous was extracted with dichloromethane (3×4 L). The combined organic was washed with 1 M sodium hydroxide (2×4 L), water (4 L), and brine (4 L) then dried over sodium sulfate and filtered. The solvent was removed under vacuum and the residual oil was dissolved in hexanes (6 L). The mixture was cooled to -60° C. with stirring and the resulting solid was collected by filtration and dried to give 1.1 kg of 4-phenoxypyridine (64% yield). mp 46-49° C. 1H NMR (300 MHz, CDCl3) δ8.45 (dd, J=1.5, 8 Hz, 2H), 7.41 (dd, J=12, 12 Hz, 2H), 7.28 (dd, J=12, 1H), 7.06 (d, J=12 Hz, 2H), 6.84 (dd, J=1.5, 8 Hz, 2H).

reactant | Phenol | 30.0 mol, 2.82 kg | C1(=CC=CC=C1)O | C6H6O
reactant | 4-chloropyridine hydrochloride | 10.0 mol, 1.5 kg | Cl.ClC1=CC=NC=C1
reactant | sodium hydroxide | 3 M, 16 L | [OH-].[Na+]
product | 4-phenoxypyridine | 1.1 kg, 64% yield | O(C1=CC=CC=C1)C1=CC=NC=C1 | C11H9NO
